Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Kidney injury
 
Major Surgical or Invasive Procedure:
Bone Marrow Biopsy ___
 
History of Present Illness:
Mr. ___ is an ___ year old man with diet-controlled DM, 
hypertension, and recently worsening CKD who is admitted per his 
nephrologist for inpatient workup of worsening renal function.

He was seen by nephrologist ___ on ___ for 
worsening renal function. His creatinine has risen from 1.4 last 
year to 2.2 in ___ and 2.7 in ___. His sediment showed RBCs and 
protein. Overall this raised concern for possible RPGN and so 
Dr. ___ the patient to present to the ED for admission 
for inpatient workup and management with likely renal biopsy.

On admission he reported that he feels well. He's had no 
abdominal pain, fevers/chills/night sweats, dysuria. His urine 
is clear and yellow. He has chronic nocturia, urinating ~6 times 
per night. He's had stable ___ edema for several months. He does 
not take NSAIDs. 

In the ED, 
Vitals: Afebrile, stable
Data: Cr 2.1, K 4.3
Interventions: None
 
Past Medical History:
Diet-controlled DM
HTN
BPH
 
Social History:
___
Family History:
No relevant family history to current admission
 
Physical Exam:
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. 1+ pitting
edema to mid-shins bilaterally
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM. No CVA tenderness
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION:

___ 08:20AM BLOOD WBC-4.2 RBC-2.49* Hgb-8.1* Hct-24.0* 
MCV-96 MCH-32.5* MCHC-33.8 RDW-13.0 RDWSD-45.0 Plt ___
___ 08:20AM BLOOD Neuts-64.2 Lymphs-18.4* Monos-13.6* 
Eos-0.7* Baso-0.0 Im ___ AbsNeut-2.69 AbsLymp-0.77* 
AbsMono-0.57 AbsEos-0.03* AbsBaso-0.00*
___ 08:20AM BLOOD Glucose-130* UreaN-25* Creat-2.1* Na-144 
K-4.3 Cl-109* HCO3-24 AnGap-11
___ 08:20AM BLOOD Calcium-7.8* Phos-3.8 Mg-1.7
___ 08:57AM BLOOD Glucose-125* Na-143 K-3.5 Cl-109* 
calHCO3-26

INTERIM IMPORTANT RESULTS:

___ 05:19AM BLOOD calTIBC-226* VitB12-287 Folate-8 
Ferritn-88 TRF-174*
___ 05:47AM BLOOD PTH-103*
___ 05:19AM BLOOD 25VitD-24*
___ 05:19AM BLOOD ANCA-NEGATIVE B
___ 05:19AM BLOOD Ret Aut-1.4 Abs Ret-0.03
___ 05:25AM BLOOD FreeKap-802* ___ Fr K/L-35.02*
___ 01:59AM URINE Hours-RANDOM Creat-84 TotProt-279 
Prot/Cr-3.3*
___ 05:16AM BLOOD b2micro-5.9* IgG-727 IgA-85 IgM-31*
UPEP: interpretation pending at time of discharge
Urine IF: pending at time of discharge
Methylmalonic acid: pending at time of discharge

DISCHARGE:

___ 05:16AM BLOOD WBC-4.3 RBC-2.23* Hgb-7.2* Hct-21.2* 
MCV-95 MCH-32.3* MCHC-34.0 RDW-12.6 RDWSD-43.7 Plt ___
___ 05:16AM BLOOD Glucose-117* UreaN-35* Creat-2.2* Na-149* 
K-3.1* Cl-111* HCO3-25 AnGap-13
___ 05:16AM BLOOD Calcium-7.8* Phos-3.8 Mg-1.7

IMAGING:

Skeletal Survey -

FINDINGS:  
  
No suspicious lytic or sclerotic lesions are identified. 
  
Lateral view of the skull is unremarkable. 
  
There is a thick anterior flowing syndesmophyte along lower 
thoracic level 
suggesting idiopathic hyperostosis.  Vertebral body heights and 
interspaces appear preserved in height with mild degenerative 
changes throughout all levels, including mild narrowings among 
several mid thoracic interspaces 
  
There is slight S-shaped curvature to the lumbar spine including 
multi level  degenerative changes. L1-L2 interspace is severely 
narrowed with medium-sized  osteophytes. L2-L3 interspace is 
mildly narrowed.  L4-L5 interspace is mildly  narrowed with 
medium-sized osteophytes and sub chondral sclerosis. L5-S1  
interspace is moderate to severely narrowed.  Although 
incompletely characterized, there are facet joint degenerative 
changes throughout the lumbar spine, which are most severe at 
L4-L5 and L5-S1. 
  
Pelvis is unremarkable.  Each hip joint appears preserved. 
  
Two views of each femur are unremarkable. 
  
Single view of each humerus is unremarkable. 
  
IMPRESSION:  
  
No suspicious lesions identified. 
 
Brief Hospital Course:
Mr. ___ is an ___ ___ speaking male with past 
medical history of diet-controlled DM, HTN, BPH, and CKD, sent 
in by nephrologist for work up of progressively worsening renal 
function and consideration of kidney biopsy given
possibility of glomerulonephritis.

# Subacute Renal Failure: His creatinine has been progressively 
worsening (1.4 last year to 2.2 in ___ and 2.7 in ___ 2.2 on 
d/c) and he was evaluated by nephrologist Dr. ___ one 
week prior to admission. Given blood and protein in urine, she 
was concerned for RPGN and requested admission for expedited 
workup including possible renal biopsy. As part of workup, he 
was found to have abnormal SPEP (labs from Dr. ___ 
prompting renal to suggest hematology evaluation before they 
decide on need for renal biopsy. 

# Anemia: Hct 24 on admission, was 25.9 last week in ___ 
clinic. Likely related to CKD. Also consider MM as a cause 
givenabnormal M spike. Has increased K/L ratio to 35. 
Reticulocyte count inappropriately normal. Iron, tibc, ferritin 
not suggestive of iron deficiency. B12 and folate normal. 
Hematology was consulted, recommended bone marrow biopsy with 
concern for multiple myeloma which he had on ___. He also 
had skeletal survey to look for lytic bone lesions, which was 
negative. He will need to follow up with ___ clinic after 
discharge to discuss the results of the BM biopsy and come up 
with treatment plan if indicated.

# HTN: Continued home amlodipine and held Lisinopril given 
fluctuating renal function. BP was elevated and variable between 
150s and 170s systolic. Likely will require a different agent 
for long-term control in the future.

# BPH: Continued home finsteride.

# Vitamin D Deficiency: Continued home cholecalciferol. ___ 
vitamin D level during admission 24.

# Hypokalemia: Mild, repleted x1 for 3.1 but was judicious given 
risk of hyperkalemia in the setting of kidney dysfunction.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Finasteride 5 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Finasteride 5 mg PO DAILY  
4.  Vitamin D ___ UNIT PO DAILY  
5. HELD- Lisinopril 10 mg PO DAILY  This medication was held. Do 
not restart ___ until MD tells you to restart this
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
kidney disease
anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for expedited work-up of your 
kidney disease, at the request of your usual nephrologist Dr. 
___. While you were admitted, you were found to have an 
abnormal protein in your blood prompting evaluating by our blood 
specialists(hematologists). You underwent a bone marrow biopsy 
to evaluate for blood cancer causing the protein abnormality.

It was a pleasure taking care of you!

Sincerely, your ___ Team
 
Followup Instructions:
___